US06063782
1-(2-Butenyl)-7-(2,6-difluorobenzyloxy)-2,3-dimethylpyrrolo[2,3-d]pyridazine
The title compound (cis/trans=22/78) was prepared as a white powder in 58.3% yield in a similar procedure to that described in Example 1 by using 1-(2-butenyl)-7-chloro-2,3-dimethylpyrrolo[2,3-d]pyridazine (cis/trans=24/76) and 2,6-difluorobenzyl alcohol.

reactant | 1-(2-butenyl)-7-chloro-2,3-dimethylpyrrolo[2,3-d]pyridazine | C(C=CC)N1C(=C(C=2C1=C(N=NC2)Cl)C)C | C12H14ClN3
reactant | 2,6-difluorobenzyl alcohol | FC1=C(CO)C(=CC=C1)F | C7H6F2O
product | 1-(2-Butenyl)-7-(2,6-difluorobenzyloxy)-2,3-dimethylpyrrolo[2,3-d]pyridazine | 58.3% yield | C(C=CC)N1C(=C(C=2C1=C(N=NC2)OCC2=C(C=CC=C2F)F)C)C | C19H19F2N3O
